US07696347B2
(15A-1) 2-[Cyclohexyl(methyl)amino]ethanol
To a mixture of N-cyclohexylethanolamine (2.1 g, 14.7 mmol) and tetrahydrofuran (70 ml) were added iodomethane (1.1 ml, 17.6 mmol) and triethylamine (2.26 ml, 16.2 mmol) at room temperature, and the reaction mixture was stirred for 1 hour under heating refluxing. The reaction mixture was cooled at room temperature (external temperature). To the mixture was added water to stop the reaction. To the reaction mixture was added ethyl acetate, and the organic layer was separated. The organic layer was washed with water and an aqueous saturated sodium chloride solution, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate, NH silica gel) to obtain the title compound (790.7 mg, 5.0 mmol, 34%).

reactant | N-cyclohexylethanolamine | 14.7 mmol, 2.1 g | C1(CCCCC1)NCCO | C8H17NO
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | iodomethane | 17.6 mmol, 1.1 ml | IC | CH3I
reactant | triethylamine | 16.2 mmol, 2.26 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[Cyclohexyl(methyl)amino]ethanol | 5.0 mmol, 790.7 mg, 34% | C1(CCCCC1)N(CCO)C | C9H19NO
